US04980470
Synthesis of 1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-7-(3-methyl-1-piperazinyl)-4-oxo-3-quinolinecarboxylic acid
To a solution of sodium methoxide prepared from sodium (0.4 g) and absolute methanol (20 ml) was added 1-cyclopropyl-6,8-difluoro-1,4-dihydro-7-(3-methyl-1-piperazinyl)-4-oxo-3-quinolinecarboxylic acid (1.12 g), and, the mixture in sealed tube was stirred for 70.5 hours at 140° to 150° C. and then concentrated. The residue was dissolved in small amount of water, the resulting solution was adjusted to pH 7 with acetic acid and concentrated. The resulting residue was purified by silica gel column chromatography eluting with chloroform-methanol-concentrated aqueous ammonia (20:6:1) and recrystallized from methanol to give the title compound (0.33 g) as pale yellow prisms, mp 162° C.

reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 0.4 g | [Na] | Na
reactant | 1-cyclopropyl-6,8-difluoro-1,4-dihydro-7-(3-methyl-1-piperazinyl)-4-oxo-3-quinolinecarboxylic acid | 1.12 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(NCC1)C)F)=O)C(=O)O | C18H19F2N3O3
solvent | methanol | 20 ml | CO | CH4O
product | 1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-7-(3-methyl-1-piperazinyl)-4-oxo-3-quinolinecarboxylic acid | 0.33 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)N1CC(NCC1)C)F)=O)C(=O)O | C19H22FN3O4
